US09315521B2
2-{[(2,3,6-trichlorophenyl)methyl]sulfanyl}pyrimidin-4-ol
As per procedure from Example 1, this compound was prepared from 2-(bromomethyl)-1,3,4-trichlorobenzene and 2-sulfanylpyrimidin-4-ol to provide the title compound as a white solid (1.04 g, 89% yield); 1H NMR (400 MHz, DMSO-d6): δ 4.72 (s, 2H), 6.21 (bs, 1H), 7.58 (d, J=8.8 Hz 1H), 7.68 (d, J=8.8 Hz 1H), 8.02 (bs, 1H); M+322.8.

reactant | 2-(bromomethyl)-1,3,4-trichlorobenzene | BrCC1=C(C=CC(=C1Cl)Cl)Cl | C7H4BrCl3
reactant | 2-sulfanylpyrimidin-4-ol | SC1=NC=CC(=N1)O | C4H4N2OS
product | 2-{[(2,3,6-trichlorophenyl)methyl]sulfanyl}pyrimidin-4-ol | 1.04 g, 89% yield | ClC1=C(C(=CC=C1Cl)Cl)CSC1=NC=CC(=N1)O | C11H7Cl3N2OS
